US04954164
Into 70 ml of chlorosulfonic acid was added dropwise under cooling at 5° C. or lower 12.6 g (0.1 mol) of 1,3-dimethyl-5-methoxypyrazole. After the addition, the mixture was stirred at 100° C. for 8 hours. Then, the reaction mixture was cooled to 80° C., followed by dropwise addition of 11.9 g (0.1 mol) of thionyl chloride over 30 minutes. After the dropwise addition, the mixture was stirred at 100° C. for 2 hours. The reaction mixture was cooled and poured carefully into ice-water, whereby crude 1,3-dimethyl-5-methoxy-pyrazole-4-sulfonylchloride was formed as crystals The crystals were separated by filtration, dissolved in 20 ml of tetrahydrofuran and the resultant solution was added dropwise into 100 ml of aqueous ammonia (28%) at 10° C. or lower. After the addition, the mixture was stirred at room temperature for 30 minutes. The reaction mixture was evaporated under reduced pressure to remove low boiling components, whereby crystals were precipitated. The crystals were filtered, washed with water and dried to give 11.5 g of 1,3-dimethyl-5-methoxypyrazole-4-sulfonamide melting at 144°-146° C.

reactant | 1,3-dimethyl-5-methoxypyrazole | 0.1 mol, 12.6 g | CN1N=C(C=C1OC)C | C6H10N2O
reactant | thionyl chloride | 0.1 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | chlorosulfonic acid | 70 ml | ClS(=O)(=O)O | ClHO3S
product | 1,3-dimethyl-5-methoxy-pyrazole-4-sulfonylchloride | CN1N=C(C(=C1OC)S(=O)(=O)Cl)C | C6H9ClN2O3S
